US04612378
13.3 g of AlCl3 are dissolved in 100 ml of diethyl ether at 0° to 5°. 3.4 g of 2-mercaptobenzothiazole and 2.6 g of itaconic acid are then added. After the mixture has been stirred at 20°-25° for 24 hours, the ether solution is poured off and the residue is stirred with 100 ml of water and 100 ml of ethyl acetate. The organic phase is separated off, dried and evaporated. 3 g of 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid are obtained as the residue.

reactant | AlCl3 | 13.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-mercaptobenzothiazole | 3.4 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | itaconic acid | 2.6 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid | 3 g | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)O)C(=O)O | C12H11NO4S2
